US04616086
Methyl 4-(piperazin-1-ylmethyl)-benzoate
A mixtue of 38 g. (0.2 mole) piperazine hexahydrate, 28 g. (0.2 mole) piperazine dihydrochloride and 150 ml. methanol is mixed, while stirring at ambient temperature, with 45 g. (0.2 mole) methyl 4-bromomethylbenzoate. The reaction mixture is left to stand for 2 days and suction filtered from the precipitate. The clear solution is evaporated and the residue is recrystallised from ethanol to give 39 g. (64%) of the desired compound as a monohydrochloride; m.p. 226°-227° C.

reactant | piperazine hexahydrate | 0.2 mole | O.O.O.O.O.O.N1CCNCC1
reactant | piperazine dihydrochloride | 0.2 mole | Cl.Cl.N1CCNCC1
reactant | methyl 4-bromomethylbenzoate | 0.2 mole | BrCC1=CC=C(C(=O)OC)C=C1 | C9H9BrO2
solvent | methanol | CO | CH4O
product | Methyl 4-(piperazin-1-ylmethyl)-benzoate | 64% | N1(CCNCC1)CC1=CC=C(C(=O)OC)C=C1 | C13H18N2O2
